US05312914
(R)-2-hydroxy-3-methoxycarbonyl-2-penten-4-olide
775 ml of 1.6M n-butyllithium solution in n-hexane are added dropwise within a period of 20 minutes at -25° C. to a solution of 1.27 mol of diisopropylamine in 600 ml of tetrahydrofuran. At -70° C., 70.9 g of (R)-3-hydroxybutyric acid methyl ester are then added dropwise within a period of 30 minutes and, after 1 hour, 70.9 g of oxalic acid dimethyl ester are added dropwise within a period of 40 minutes. After a reaction time of two hours at -60° C., the whole is warmed to 0° C. and acidified to pH 2 with 430 ml of 6N hydrochloric acid. The product is isolated by repeated extraction with ethyl acetate and pre-purified by extraction into aqueous bicarbonate solution, acidification with 6N hydrochloric acid to pH 2.5 and extraction once more with ethyl acetate. The solvent is distilled off and the residue is recrystallised from ether/petroleum ether. [α]D20 =+30.0° (3% in CHCl3), m.p. 94°-96° C.

reactant | n-butyllithium | 1.6M, 775 ml | C(CCC)[Li]
reactant | diisopropylamine | 1.27 mol | C(C)(C)NC(C)C | C6H15N
reactant | (R)-3-hydroxybutyric acid methyl ester | 70.9 g | COC(C[C@@H](C)O)=O | C5H10O3
reactant | oxalic acid dimethyl ester | 70.9 g | COC(C(=O)OC)=O | C4H6O4
reactant | hydrochloric acid | 6N, 430 ml | Cl | ClH
solvent | n-hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-2-hydroxy-3-methoxycarbonyl-2-penten-4-olide | OC=1C(=O)O[C@@H](C1C(=O)OC)C | C7H8O5
